US09353081B2
[C] 7-Fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one
To an ice cold solution of 7-fluoro-3,4-dihydro-1H-quinolin-2-one (16.5 g, 0.1 mol) in DMF (200 mL) was added potassium tert-butoxide (22.4 g, 0.2 mol) in 2 portions. The reaction mixture was stirred at 0° C. for 30 min before MeI (25.4 g, 0.18 mol) was added. After the addition, the reaction mixture was allowed to warm up to room temperature slowly and stirred at room temperature over night. The reaction mixture was diluted with EtOAc (500 mL), then poured into 200 mL of 1 N aq. HCl. After extraction with EtOAc (200 mL, 3×), the combined organic layers were washed with brine, dried over anhy. Na2SO4, filtered and concentrated in vacuo to give crude title compounds as oil (16.0 g, 89% yield). It was used in the next step without further purification.

reactant | 7-fluoro-3,4-dihydro-1H-quinolin-2-one | 0.1 mol, 16.5 g | FC1=CC=C2CCC(NC2=C1)=O | C9H8FNO
reactant | potassium tert-butoxide | 0.2 mol, 22.4 g | CC(C)([O-])C.[K+]
reactant | MeI | 0.18 mol, 25.4 g | CI | CH3I
reactant | HCl | 1 N, 200 mL | Cl | ClH
solvent | DMF | 200 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 7-Fluoro-1-methyl-3,4-dihydro-1H-quinolin-2-one | 16.0 g, 89% yield | FC1=CC=C2CCC(N(C2=C1)C)=O | C10H10FNO
